US08207172B2
Step 5. Preparation of 6-chloro-3-[2-(4-methyl-piperazin-1-yl)-ethyl]-4,5-dihydro-3H-10-thia-2,3,7,9-tetraaza-cyclopenta[a]fluorene
A suspension of 3-[2-(4-methyl-piperazin-1-yl)-ethyl]-4,5-dihydro-3H-10-thia-2,3,7,9-tetraaza-cyclopenta[a]fluorene-6-ol (2 g, 5.4 mmol) in POCl3 (18 ml, 194 mmol) was heated at 105° C. (bath temperature) for 3 h. Analytical HPLC showed no more starting material and a new peak. Excess POCl3 was removed under vacuum and the residue was neutralized with 1N NaOH, extracted with CHCl3:isopropanol (v/v, 3/1). The organic phase was washed with brine, dried over Na2SO4, concentrated to afford a brown syrup, which was purified by silica gel column (CH2Cl2/2N NH3 in MeOH=100/8). The desire product was obtained as a light yellow solid (1.5 g, 71%). 1H-NMR (CD2Cl2-d2) δ 8.66 (s, 1H), 7.60 (s, 1H), 4.19 (t, 2H, J=6.2 Hz), 3.55 (t, 2H, J=8.5 Hz), 3.10 (t, 2H, J=8.3 Hz), 2.80 (t, 2H, J=6.0 Hz), 2.52-2.39 (b, 8H), 2.25 (s, 3H); LCMS RT=1.97 min; [M+H]+=389.4.

reactant | 3-[2-(4-methyl-piperazin-1-yl)-ethyl]-4,5-dihydro-3H-10-thia-2,3,7,9-tetraaza-cyclopenta[a]fluorene-6-ol | 5.4 mmol, 2 g | CN1CCN(CC1)CCN1N=CC2=C1CCC=1C=3C(=NC=NC3SC21)O | C18H22N6OS
reactant | POCl3 | 194 mmol, 18 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 6-chloro-3-[2-(4-methyl-piperazin-1-yl)-ethyl]-4,5-dihydro-3H-10-thia-2,3,7,9-tetraaza-cyclopenta[a]fluorene | 1.5 g, 71% | ClC1=C2C=3CCC4=C(C3SC2=NC=N1)C=NN4CCN4CCN(CC4)C | C18H21ClN6S
